US05104884
4-(1H-1,2,4-triazole-1-yl)-2,8-dimethyl-5-chloro-quinoline
A mixture of 2.26 g of 4,5-dichloro-2,8-dimethyl-quinoline, 1.38 g of 1,2,4-triazole and 0.1 g of 96% sulfuric acid is stirred at 70° C. for 3 hours. The reaction mixture is poured into 50 ml of water and neutralized with 1 ml of a concentrated ammonium hydroxide solution. The precipitated product is filtered and washed with water. Thus 2.0 g of the desired compound are obtained, yield 77.4%. Mp.: 117°-118° C.

reactant | 4,5-dichloro-2,8-dimethyl-quinoline | 2.26 g | ClC1=CC(=NC2=C(C=CC(=C12)Cl)C)C | C11H9Cl2N
reactant | 1,2,4-triazole | 1.38 g | N1N=CN=C1 | C2H3N3
reactant | sulfuric acid | 0.1 g | S(O)(O)(=O)=O | H2O4S
reactant | ammonium hydroxide | 1 ml | [OH-].[NH4+]
solvent | water | 50 ml | O | H2O
product | 4-(1H-1,2,4-triazole-1-yl)-2,8-dimethyl-5-chloro-quinoline | 2.0 g, yield 77.4% | N1(N=CN=C1)C1=CC(=NC2=C(C=CC(=C12)Cl)C)C | C13H11ClN4
